Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with history of stage IV metastatic melanoma s/p resection 
of
abdominal mass and ALND on chemotherapy (nivolumab), AF not on
AC, PUD c/b GI bleed x2 (___), PE s/p IVC filter ___, EtOH
use, gastric bypass ___, hypothyroidism, DM, HLD, anemia, who
presented to ___ for 1 week of generalized weakness, found
to be hypotensive not responsive to 2L IVF, started on levophed
and transferred to ___.

He reports increased weakness over the last week since 
undergoing
chemo on ___, now with trouble getting out of bed. Also
endorses malaise and chills. He denies any chest pain, SOB,
cough, abdominal pain, N/V/D, BRBPR, melena, or dysuria. He
reports has not urinated since yesterday morning. He went to
___ where he was found to be hypotensive. He was given 2L 
IV
fluids with no improvement and started on Levophed for pressure
support. His lab work was notable for anemia and during the ED
stay his Hct dropped from 27 to 22.3. He had brown, guaiac
negative stools and no source of bleeding identified. He was
transfused 1-unit PRBC. Received Vanc and Ceftaz for empiric
antibiotics for sepsis coverage. He receives his oncology care
here at ___ and was transferred for further evaluation.

In the ED, 
- Initial Vitals:

98.7 98 94/62 22 100% RA
Later spiked a fever to 101 in the ED 
 
- Exam:
Exam:
Chronically ill appearing but not acutely toxic
Port in upper chest is clean/dry/intact
RRR
CTA bilaterally
Abdomen soft, nontender
Skin warm and dry
guaic negative
AAOx3

- Labs:
hgb 9.6, wbc 7.1, plt 260, INR 1.8
Na 135, Cr 2.4, K 4.8, Cl 101, bicarb 22, AG 12
ALT 5, AST 72, Alk phos 87, T bili 2.4, trop 0.04, albumin 2.4,
Mg 1.1, Ca 8.1, UA 6 WBC, few bacteria, neg leuks
VBG, lactate normal
Utox positive for cocaine

- Imaging:
Bedside ultrasound - FAST negative, collapsible IVC
- CT AP
1. No acute intra-abdominal or intrapelvic findings to correlate
with the 
patient's symptoms.  No retroperitoneal bleed.  No focal fluid
collections 
within the abdomen or pelvis. 
2. Generalized mild anasarca and increased mesenteric stranding
with small 
amount of intra-abdominal ascites is new from prior, and may be
secondary to 
third spacing. 
3. Overall appearance of metastatic disease is unchanged. 
4. No change in a 2.5 cm right upper lobe nodule. 
CXR
FINDINGS:  
  
Mild bibasilar atelectasis more prominent on the right.  There 
is
an accessed 
left chest wall chemo port which terminates at the cavoatrial
junction.  No 
focal consolidation.  No pneumothorax.  No pleural effusion.  
The

cardiomediastinal silhouette is stable.  No acute osseous
abnormality. 
  
IMPRESSION:  
No acute cardiopulmonary process. 

- Consults: none

- Interventions: Magnesium, 1 L NS, Tylenol, continued on norepi
0.02

 
Past Medical History:
Gastric bypass
Shoulder arthritis, rotator cuff injury awaiting surgery
atrial fibrillation
diabetes
alcohol abuse
fatty liver
hypertension
osteoarthritis of the knee
radial nerve palsy
sleep apnea
GI bleed from PUD while on anticoagulation for afib
 
Social History:
___
Family History:
His brother had skin cancer though he does not think it was
melanoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: HR 101, BP 100/60, RR 23, sat 100% RA
GEN: AOx3, intermittently somnolent
EYES: ___: no LAD, no JVP
CV: irregularly irregular, no murmurs, palpable pulses
RESP: CTAB, no wheezes or crackles
GI: soft abdomen, nondistended non tender
MSK: moves all 4 extremities with ease
SKIN: no jaundice or scleral icterus appreciated, no palmar
erythema, no rashes, no bruises
NEURO: moves all extremities with ___ strength, normal sensation
throughout, aox3
PSYCH: linear thought process, no reports of hallucinations or
delusions

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 845)
    Temp: 97.7 (Tm 98.3), BP: 119/90 (104-119/70-90), HR: 71
(71-93), RR: 18, O2 sat: 94% (94-99), O2 delivery: Ra    
Gen: NAD, A&Ox3 
HENT: NCAT, MMM, EOMI. Multiple dental caries with several
missing teeth 
CV: RRR no mrg 
Lung: CTAB, breathing comfortably
Abd: NTND 
Ext: trace pitting edema to the knee.
Neuro: A&Ox3
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:52AM BLOOD WBC-7.1 RBC-2.73* Hgb-9.6* Hct-29.0* 
MCV-106* MCH-35.2* MCHC-33.1 RDW-13.8 RDWSD-54.0* Plt ___
___ 03:52AM BLOOD Neuts-53.2 ___ Monos-15.2* 
Eos-2.4 Baso-1.3* Im ___ AbsNeut-3.78 AbsLymp-1.93 
AbsMono-1.08* AbsEos-0.17 AbsBaso-0.09*
___ 03:52AM BLOOD ___ PTT-40.5* ___
___ 03:52AM BLOOD Glucose-84 UreaN-24* Creat-2.4* Na-135 
K-4.8 Cl-101 HCO3-22 AnGap-12
___ 03:52AM BLOOD ALT-5 AST-72* CK(CPK)-97 AlkPhos-87 
TotBili-2.4*
___ 03:52AM BLOOD Albumin-2.4* Calcium-8.1* Phos-3.6 
Mg-1.1*
___ 01:36PM BLOOD calTIBC-124* Hapto-14* Ferritn-907* 
TRF-95*
___ 01:36PM BLOOD TSH-20*
___ 05:21PM BLOOD Free T4-1.0

MICRO:
======
BCx ___- no growth to date

Urine cx ___- no growth

MRSA- negative

IMAGING:
========
CT A/P ___. No acute intra-abdominal or intrapelvic findings to correlate 
with the 
patient's symptoms.  No retroperitoneal bleed.  No focal fluid 
collections 
within the abdomen or pelvis. 
2. Generalized mild anasarca and increased mesenteric stranding 
with small 
amount of intra-abdominal ascites is new from prior, and may be 
secondary to third spacing. 
3. Overall appearance of metastatic disease is unchanged. 
4. No change in a 2.5 cm right upper lobe nodule. 

CT ABDOMEN ___. Near occlusive likely tumor thrombus within the right hepatic 
vein 
extending into the retrohepatic IVC, similar in extent compared 
to ___ and contiguous with the right adrenal 
metastasis.  Nonocclusive punctate thrombus in the middle 
hepatic vein is also similar to prior. 
2. New moderate bilateral pleural effusions. 
3. Small volume ascites and diffuse anasarca have both increased 
compared to prior. 
4. Spleen is top-normal measuring 13.1 cm. 
5. 2.8 cm right middle lobe pulmonary nodule consistent with 
known metastasis is similar to prior.  12.3 cm right adrenal 
metastasis is similar in size compared to prior.  Porta hepatis 
lymphadenopathy is similar to ___ but enlarged since ___. 

MR PITUITARY ___ CONTRASTStudy Date of ___ 9:17 ___
1. Pituitary adenoma measuring up to 1.2 cm in the anterior 
aspect, similar compared to ___.
2. Metastatic lesion in the right frontal lobe measuring up to 
1.9 cm with surrounding edema.

DISCHARGE LABS:
===============

___ 05:55AM BLOOD WBC-7.3 RBC-2.54* Hgb-8.8* Hct-26.6* 
MCV-105* MCH-34.6* MCHC-33.1 RDW-14.4 RDWSD-54.9* Plt ___
___ 05:55AM BLOOD ___ PTT-34.7 ___
___ 05:55AM BLOOD Glucose-95 UreaN-18 Creat-1.1 Na-137 
K-4.7 Cl-104 HCO3-23 AnGap-10
___ 05:55AM BLOOD Albumin-2.4* Calcium-7.9* Phos-4.4 Mg-2.1
___ 05:55AM BLOOD TSH-15*
___ 05:55AM BLOOD Free T4-0.8*
 
Brief Hospital Course:
___ with history of stage IV metastatic melanoma s/p resection 
of abdominal mass and ALND on chemotherapy (nivolumab), AF not 
on AC, PUD c/b GI bleed x2 (___), PE s/p IVC filter ___, 
EtOH use, gastric bypass ___, hypothyroidism, DM, HLD, anemia, 
who presented to ___ for 1 week of generalized weakness, 
found to be hypotensive not responsive to 2L IVF, started on 
levophed and transferred to ___. He was admitted to the ICU 
for ongoing pressor requirement and shock of unknown etiology as 
below. He was eventually weaned off and clinically improving so 
he was called out of the ICU.

ACUTE ISSUES
===========
#Adrenal Insufficiency 
#Hypotension
Initially thought to be due to poor PO intake resulting in 
hypovolemia and continued use of diuresis vs sepsis however no 
infectious source was localized on CXR, CT abd/pelv, or blood 
culutres. The patient continued to be intermittently hypotensive 
despite fluid resuscitation. on ___, the patient was noted to 
have a low random cortisol level. He triggered ___ in the 
evening for hypotension. He already had a positive cosyntropin 
stimulation test prior to receiving IV hydrocortisone. The 
steroids stabilized his blood pressure and he was continued on 
them around the clock. The etiology of the adrenal insufficiency 
is unclear, as it may be due to tumor invasion of the R adrenal 
gland vs nivolumab induced adrenal insufficiency. Panhypopit was 
a consideration although given the elevated tsh (discussed 
below) this would not fit. An ACTH level was sent to confirm the 
diagnosis. Endocrinology was consulted. The patient was also 
noted to have hypothyroidism and hypogonadism. Pituitary MRI 
showed a pituitary adenoma measuring up to 1.2 cm in the 
anterior aspect, similar compared to ___. Ultimately, 
he was discharged with hydrocort repletion. He will follow up in 
___ clinic.

#Primary Hypothyroidism ___ Nivolumab
Patient reportedly takes synthroid at home for treatment of 
hypothyroidism caused by his nivolumab. His TSH was elevated 
although it was unclear if the patient was compliant with the 
medication. He was noted to have an elevated antithyroglobulin 
antibody level. Endocrine wanted to increase his dose to 100mcg.

#Macrocytic Anemia
Hemoglobin initially downtrended and then stabilized around 9, 
believed to be likely initially a component of dilution. CT A/P 
was without evidence of bleed. Anemia was thought to possibly be 
related to alcohol or hypothyroidism. Also possibly an element 
of hemoconcentration in the setting of recent poor PO intake. Hg 
remained stable throughout the rest of the hospital course.

#Atrial Fibrillation
Continued digoxin. Held metoprolol while on norepinephrine with 
plan to restart once
stabilized

#Melanoma Stage IV
#New brain metastasis
Patient has metastatic disease s/p resection of abdominal mass 
and ALND on chemotherapy. He is on nevolumab C2D1 ___. He 
is followed by heme/onc and palliative care as outpatient. 
Pituitary MRI revealed new brain metastasis, for which he will 
follow up with neuro-onc as an outpatient.

#Myocardial injury
Thought to be most likely from ___, with no ischemic changes on 
EKG or reported chest pain, but did have cocaine use so would 
consider direct cardiotoxic effect vs cocaine induced MI. Repeat 
troponin downtrending. 

#Acute Kidney Injury 
Was believed to be most likely pre-renal from poor po intake, 
though may have also had some renal toxicity from the cocaine. 
Resolved.

#PE s/p IVC filter ___:
Continued to monitor

#EtOH Abuse
He was placed on ___ protocol 

TRANSITIONAL ISSUES: 
======================
-Follow-up: Onc, neuro-onc, endocrinology, hepatology, dentistry
-New medications: Hydrocortisone 20 mg qam and 10 mg qpm (for 
adrenal insufficiency), MVI, thiamine, Peridex mouth wash BID 
for 7 days (last day ___.
-Changed medications: levothyroxine increased to 100mcg daily
-Held medications: KCl, metoprolol. Please monitor K and BP as 
an outpatient and consider restarting these medications.
-Adrenal insufficiency: Likely related to his immunotherapy. 
Endocrinology started him on hydrocort. Has instructions for 
stress dose steroids. Needs a med alert bracelet.
-Intracranial metastasis: New intracranial metastasis found on 
MRI. His disease has been known progressive as an outpatient. He 
will follow-up with neuro-onc as an outpatient.
-Liver disease/ETOH use: Has evidence of alcohol-induced liver 
damage and small ascites. Will need to continue ETOH cessation 
management as well as hepatology follow-up.
-Hypothyroidism: Synthroid was changed to 100 mcg per 
endocrinology.
-Hypogonadism: Low DHEA, consider testosterone if symptomatic.
-Dental carries: He was seen by OMFS at ___ who recommended 
extraction of multiple teeth and roots.
and panorex. He should continue Peridex BID for 7days (last day 
___
-Consider sleep study evaluation for sleep apnea as patient has 
had some oxygen desaturations overnight
-Discharge labs: hgb 8.8, K 3.7, Cr 1.1.
-Contact: ___ Relationship: brother Phone: 
___ Cell phone: ___ 
-Code status: Full

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Torsemide 10 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Potassium Chloride Dose is Unknown  PO DAILY 
6. Cyanocobalamin Dose is Unknown  PO DAILY 
7. Digoxin 0.125 mg PO DAILY 

 
Discharge Medications:
1.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Peridex] 0.12 % 15 mL twice a day 
Refills:*0 
2.  Dexamethasone 4 mg IM ONCE:PRN feels ill and unable to take 
PO steroids 
Use if feeling very ill and unable to take oral hydrocortisone 
due to nausea/vomiting. 
RX *dexamethasone sodium phosphate 4 mg/mL 4 mg IM once Disp #*4 
Syringe Refills:*0 
3.  Hydrocortisone 20 mg PO QAM 
RX *hydrocortisone 20 mg 1 tablet(s) by mouth every morning Disp 
#*30 Tablet Refills:*0
RX *hydrocortisone 20 mg 1 tablet(s) by mouth as directed Disp 
#*9 Tablet Refills:*0 
4.  Hydrocortisone 10 mg PO QPM 
RX *hydrocortisone 10 mg 1 tablet(s) by mouth every afternoon 
Disp #*30 Tablet Refills:*0 
5.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
7.  Levothyroxine Sodium 100 mcg PO DAILY 
RX *levothyroxine 100 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
8.  Cyanocobalamin 100 mcg PO DAILY  
9.  Digoxin 0.125 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Torsemide 10 mg PO DAILY  
12. HELD- Metoprolol Tartrate 50 mg PO BID  This medication was 
held. Do not restart Metoprolol Tartrate until your doctor says 
it is okay to restart
13. HELD- Potassium Chloride Dose is Unknown  PO DAILY  This 
medication was held. Do not restart Potassium Chloride until 
your doctor says it is okay to restart

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Adrenal Insufficiency 
Hypothyroidism
Metastatic melanoma

Secondary Diagnosis:
====================
Hepatic vein DVT
Macrocytic anemia
Dental caries
Hypogonadism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
-You were admitted because your blood pressure was low 

WHAT HAPPENED TO ME IN THE HOSPITAL?
-We found out your nivolumab has caused your body to not be able 
to make steroids naturally 
-We had our endocrinologists see you and they helped us find the 
right dose of steroids to give you  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
-Continue to take all your medicines and keep your appointments.
-Please take your hydrocortisone 20mg in the morning and 10mg in 
the afternoon. You were given a short term prescription to fill 
at another pharmacy while your main pharmacy waits to get the 
medication shipped. Please be sure to call your main pharmacy 
tomorrow and a few days prior to any refills to be sure that 
they have your medicine in stock. It is ESSENTIAL that you take 
your hydrocortisone regularly.
-Take double steroid dose for two days if you feel sick or have 
a cold. Furthermore you should triple the dose for three days if 
you are very ill. 
-Take intra-muscular Dexamethasone 4mg if you have nausea or 
vomiting and are unable to take your oral medications and you 
feel extremely ill. 
-Please talk to your outpatient doctor about retrieving a 
medical bracelet indicating you have ADRENAL INSUFFICIENCY.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___